US08466186B2
(c) 5-Fluoro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline
A mixture of 4-fluoro-N-methyl-2-nitro-5-(4-trifluoromethyl-piperidin-1-yl)aniline (200 mg, 0.62 mmol), Ra—Ni (4 mg, 0.062 mmol) and THF (30 mL) was shaken under H2 atmosphere (1 atm) at rt for 1 h. The mixture was filtered through celite and the celite pad was further washed with THF. Concentration and crystallization from Et2O/PE gave the sub-title compound.

reactant | 4-fluoro-N-methyl-2-nitro-5-(4-trifluoromethyl-piperidin-1-yl)aniline | 0.62 mmol, 200 mg | FC1=CC(=C(NC)C=C1N1CCC(CC1)C(F)(F)F)[N+](=O)[O-] | C13H15F4N3O2
catalyst | Ra—Ni | 0.062 mmol, 4 mg | [Ni] | Ni
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline | FC=1C(=CC(=C(N)C1)NC)N1CCC(CC1)C(F)(F)F | C13H17F4N3
